US04563310
Following the method of Example 13, 1 g of methyl P-ethyl-2-nitro-5-(2-chloro-4-trifluoromethyl-phenoxy)phenylphosphinate is reacted with 20 ml of 6N HCl to yield P-ethyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinic acid, m.p.=99°.

reactant | methyl P-ethyl-2-nitro-5-(2-chloro-4-trifluoromethyl-phenoxy)phenylphosphinate | 1 g | C(C)P(OC)(=O)C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-] | C16H14ClF3NO5P
solvent | HCl | 6N, 20 ml | Cl | ClH
product | P-ethyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinic acid | C(C)P(O)(=O)C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-] | C15H12ClF3NO5P
